US06831164B2
2,3,4,6-Tetra-O-acetyl-1-O-(1-phenyl-1-carboxy-eth-2-yl)-mannopyranose
A mixture that consists of 34.83 g (100 mmol) of 2,3,4,6-tetra-O-acetyl-mannopyranose, 1.39 g (5 mmol) of tetrabutylammonium chloride and 35.8 g (110 mmol) of fine-powder cesium carbonate in 400 ml of dioxane is cooled to 0° C. At 0° C., 47.88 g (150 mmol) of 2-phenyl-3-bromopropionic acid-benzyl ester, dissolved in 30 ml of dioxane, is added in drops over 10 minutes while being stirred vigorously. It is stirred for one hour at 0° C. 250 ml of MTB (methyl-tert-butyl ether) is added, solid is filtered out, and the filtrate is evaporated to the dry state in a vacuum. The residue is taken up in 500 ml of tetrahydrofuran. 5 g of palladium (10%) on activated carbon is added thereto and hydrogenated until hydrogen absorption is completed. Then, catalyst is filtered out, it is rewashed with a little tetrahydrofuran, the organic solutions are combined, and it is evaporated to the dry state in a vacuum. The residue is chromatographed on silica gel (mobile solvent: dichloromethane/n=hexane/ethanol/acetic acid=20:5:3:0.5). The product-containing fractions are concentrated by evaporation, dissolved in 400 ml of ethyl acetate and shaken out three times with 200 ml of water. Then, the organic phase is separated and evaporated to the dry state in a vacuum.

reactant | 2,3,4,6-tetra-O-acetyl-mannopyranose | 100 mmol, 34.83 g | C(C)(=O)O[C@@H]1C(O)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C14H20O10
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-phenyl-3-bromopropionic acid-benzyl ester | 150 mmol, 47.88 g | C(C1=CC=CC=C1)OC(C(CBr)C1=CC=CC=C1)=O | C16H15BrO2
reactant | MTB | 250 ml | COC(C)(C)C | C5H12O
catalyst | tetrabutylammonium chloride | 5 mmol, 1.39 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dioxane | 400 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 2,3,4,6-Tetra-O-acetyl-1-O-(1-phenyl-1-carboxy-eth-2-yl)-mannopyranose | C(C)(=O)O[C@@H]1C(OCC(C(=O)O)C2=CC=CC=C2)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C23H28O12
